US20010018438A1
A solution of 3-dimethylamino-2-(4-methoxyphenyl)-1-(pyridin-4-yl)propen-1-one (2.53 g), N-methyl thiazol-2-ylacetamide (1.70 g) and methanol (0.73 cm3) in dry dimethylformamide (20 cm3) was added via cannula at room temperature to a stirred suspension of sodium hydride (55% in oil; 0.80 g) in dry dimethylformamide (10 cm3) under nitrogen. The mixture was stirred at 40° C. for 18 hours, then poured into water (200 cm3). The resulting yellow precipitate was collected and recrystallised from ethyl acetate to give 3-(4-methoxyphenyl)-1-methyl-5-(thiazol-2-yl)-1H-[2,4′]bipyridinyl-6-one as a yellow powder (2.18 g; 62%) m.p. 224-225° C. (EtOAc). Found: C, 66.9; H, 4.45; N, 11.2. C21H17N3O2S requires C, 67.2; H, 4.6; N, 11.2%. δH (360 MHz; CDCl3) 3.50 (3 H, s, NCH3), 3.74 (3 H, s, OCH3), 6.70 (2 H, d, J 9, methoxyphenyl H-2), 6.93 (2 H, d, J 9, methoxyphenyl H-3), 7.15 (2 H, d, J 6, pyridyl H-3), 7.50 (1 H, d, J 3, thiazolyl H-5), 7.96 (1 H, d, J 3, thiazolyl H-4), 8.64 (2 H, d, J 6, pyridyl H-2) and 8.72 (1 H, s, pyridone H-4); m/z (ESP+) 376 (MH+; 100%).

reactant | 3-dimethylamino-2-(4-methoxyphenyl)-1-(pyridin-4-yl)propen-1-one | 2.53 g | CN(C=C(C(=O)C1=CC=NC=C1)C1=CC=C(C=C1)OC)C | C17H18N2O2
reactant | N-methyl thiazol-2-ylacetamide | 1.70 g | CNC(CC=1SC=CN1)=O | C6H8N2OS
reactant | methanol | 0.73 cm3 | CO | CH4O
reactant | sodium hydride | 0.80 g | [H-].[Na+]
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
solvent | water | 200 cm3 | O | H2O
product | 3-(4-methoxyphenyl)-1-methyl-5-(thiazol-2-yl)-1H-[2,4′]bipyridinyl-6-one | COC1=CC=C(C=C1)C1=C(N(C(C(=C1)C=1SC=CN1)=O)C)C1=CC=NC=C1 | C21H17N3O2S
